US06858651B2
In analogy to example 11.11, trans-N-Ethyl-N-(4-hydroxy-cyclohexyl)-4-trifluoromethyl-benzenesulfonamide and 1,4-Dibromobutane were converted to yield trans-N-[4-(4-Bromo-butoxy)-cyclohexyl]-N-ethyl-4-trifluoromethyl-benzenesulfonamide as colorless oil, MS 470 (M−CH3, 1Br).

reactant | trans-N-Ethyl-N-(4-hydroxy-cyclohexyl)-4-trifluoromethyl-benzenesulfonamide | C(C)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)[C@@H]1CC[C@H](CC1)O | C15H20F3NO3S
reactant | 1,4-Dibromobutane | BrCCCCBr | C4H8Br2
product | trans-N-[4-(4-Bromo-butoxy)-cyclohexyl]-N-ethyl-4-trifluoromethyl-benzenesulfonamide | BrCCCCO[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)CC | C19H27BrF3NO3S
